US07141586B2
(cis-4-Amino-cyclohexyl)-methanol (73 mg, 0.56 mmol) and triethylamine (225 μl, 1.61 mmol) were dissolved in dimethylformamide (225 μl) and a solution of 5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinic acid (150 mg, 0.54 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (113 mg, 0.59 mmol) and 1-hydroxybenzotriazole (80 mg, 0.59 mmol) in dimethylformamide (5 ml) was added. The reaction was stirred under nitrogen at room temperature for 64 h and the solvent was removed under reduced pressure. The residue was partitioned between 0.5N HCl (10 ml) and ethyl acetate (10 ml) and the aqueous phase was extracted with ethyl acetate (2×10 ml). The combined organic phases were washed with brine (10 ml), dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with dichloromethane:methanol:concentrated aqueous ammonia (98.7:1.3:0.13, by volume). The product was triturated with ethyl acetate (3 ml) to give 5-fluoro-N-(cis-4-hydroxymethyl-cyclohexyl)-2-(3-methylsulfanyl-phenoxy)-nicotinamide (111 mg) as a white solid.

reactant | (cis-4-Amino-cyclohexyl)-methanol | 0.56 mmol, 73 mg | N[C@H]1CC[C@H](CC1)CO | C7H15NO
reactant | triethylamine | 1.61 mmol, 225 μl | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinic acid | 0.54 mmol, 150 mg | FC=1C=NC(=C(C(=O)O)C1)OC1=CC(=CC=C1)SC | C13H10FNO3S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.59 mmol, 113 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.59 mmol, 80 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 225 μl | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-fluoro-N-(cis-4-hydroxymethyl-cyclohexyl)-2-(3-methylsulfanyl-phenoxy)-nicotinamide | 111 mg | FC=1C=NC(=C(C(=O)N[C@@H]2CC[C@@H](CC2)CO)C1)OC1=CC(=CC=C1)SC | C20H23FN2O3S
